US05407890
In 30 g of ethyl acetate, 2.2 g of the leuco dye (LD-1) and 4.8 g of bisphenol A were dissolved to form a color solution. With 5 g of 5% aqueous solution of sodium dodecylbenzenesulfonate, 57 g of 14% aqueous solution of lime-treated gelatin was mixed. The mixture was placed in a homogenizer cup of 200 cc. The color solution was added to the mixture, and the resulting mixture was stirred at 10,000 rpm for 5 minutes to obtain a color particle dispersion (NB-2) having the average particle size of about 0.3 μm.

reactant | LD-1 | CCN(CC)C1=CC=CC2=C1OC3=C(C(=N)N4C5=CC=CC=C5N=C4C3=C2)C#N | C23H19N5O
reactant | bisphenol A | 4.8 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | sodium dodecylbenzenesulfonate | C(CCCCCCCCCCC)OS(=O)(=O)C1=CC=CC=C1.[Na]
reactant | ethyl acetate | 30 g | C(C)(=O)OCC | C4H8O2
product | NB-2 | CC1=CC=C(N1C2=CC(=C(C=C2)C(=O)O)O)C | C13H13NO3
